US07452911B2
3.65h 5-(4-chloro-phenyl)-3-fluoro-2-{4-[2-(4-methyl-piperidin-1-yl)-ethoxy]-phenylethynyl}-pyridine
Prepared according to general working method I from 1-[2-(4-iodo-phenoxy)-ethyl]-4-methyl-piperidine (164 mg, 0.48 mmol) and 5-(4-chloro-phenyl)-2-ethynyl-3-fluoro-pyridine (110 mg, 0.48 mmol).

reactant | 1-[2-(4-iodo-phenoxy)-ethyl]-4-methyl-piperidine | 0.48 mmol, 164 mg | IC1=CC=C(OCCN2CCC(CC2)C)C=C1 | C14H20INO
reactant | 5-(4-chloro-phenyl)-2-ethynyl-3-fluoro-pyridine | 0.48 mmol, 110 mg | ClC1=CC=C(C=C1)C=1C=C(C(=NC1)C#C)F | C13H7ClFN
product | 5-(4-chloro-phenyl)-3-fluoro-2-{4-[2-(4-methyl-piperidin-1-yl)-ethoxy]-phenylethynyl}-pyridine | ClC1=CC=C(C=C1)C=1C=C(C(=NC1)C#CC1=CC=C(C=C1)OCCN1CCC(CC1)C)F | C27H26ClFN2O
